US06066644
1'-(2-Dimethylaminoethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
A stirred solution of 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E17 in WO 96/19477, 500 mg, 0.99 mmole) in ethanol (40 ml) was treated with sodium carbonate (419 mg, 3.9 mmole) and 2-dimethylaminoethyl chloride hydrochloride (287 mg, 1.98 mmole) and heated under reflux for 48 hours. The reaction mixture was concentrated in vacuo and the residue treated with 10% Na2CO3 solution and extracted with ethyl acetate. The extract was dried (Na2SO4), concentrated in vacuo and the residue chromatographed on silica gel eluting with 0-8% methanol/chloroform to afford the title compound as a yellow/beige solid (75 mg, 13%). This was converted to its hydrochloride salt and crystallised from acetone/ether m.p. 246-248° C.

reactant | 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 0.99 mmole, 500 mg | CC1=C(C=CC(=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C31H30N4O3
reactant | sodium carbonate | 3.9 mmole, 419 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 1.98 mmole, 287 mg | Cl.CN(CCCl)C
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1'-(2-Dimethylaminoethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 75 mg, 13% | CN(CCN1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C=1OC(=NN1)C)C)C | C35H39N5O3
